US05658908
3-Bromophenoxy-tert-butyldimethylsilane (61.7 g, 0.21 mol), prepared as in Example 1, was dissolved in 500 mL of dry tetrahydrofuran under nitrogen and cooled to -78° C. A solution of 1.6M n-butyllithium in hexane (132 mL, 0.21 mol) was added dropwise at a rate to maintain the temperature below -70° C. The reaction was stirred for thirty minutes after the addition was complete and the cold solution was transferred via cannula to another vessel containing a cold (-78 ° C.) solution of 4-formyl-N,N-diethylbenzamide (44.1 g, 0.21 mol), from above, in 500 mL of dry tetrahydrofuran under nitrogen. The transfer rate was monitored to maintain the temperature below -70° C. After stirring for one hour at -78° C., the reaction was quenched with saturated aqueous ammonium chloride, warmed to room temperature and diluted with diethyl ether. The ethereal layer was washed with water and brine, dried over sodium sulfate and evaporated to give a yellow oil. Chromatography on silica gel with dichloromethane: ethanol (0-1%) gave 45.4 g (52%) of 4-(3-(tert-butyl dimethylsiiyloxy)-α-hydroxybenzyl)-N,N -diethylbenzamide as a white solid.

reactant | 3-Bromophenoxy-tert-butyldimethylsilane | 0.21 mol, 61.7 g | BrC=1C=C(O[Si](C)(C)C(C)(C)C)C=CC1 | C12H19BrOSi
reactant | n-butyllithium | 1.6M | C(CCC)[Li]
reactant | hexane | 0.21 mol, 132 mL | CCCCCC | C6H14
reactant | 4-formyl-N,N-diethylbenzamide | 0.21 mol, 44.1 g | C(=O)C1=CC=C(C(=O)N(CC)CC)C=C1 | C12H15NO2
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
solvent | ethanol | C(C)O | C2H6O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-(3-(tert-butyl dimethylsiiyloxy)-α-hydroxybenzyl)-N,N -diethylbenzamide | 45.4 g, 52% | [Si](C)(C)(C(C)(C)C)OC=1C=C(C(O)C2=CC=C(C(=O)N(CC)CC)C=C2)C=CC1 | C24H35NO3Si
